US05849911
17b) 1-[4-(Thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-amino-6-phenyl-2-azahexane
55 ml of a 1N K2CO3 solution are added dropwise to 3.12 9 (5.5 mmol) of 1-[4-(thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S) -(trifluoroacetyl)amino-6-phenyl-2-azahexane in 55 ml of methanol and the mixture is stirred at 70° C. for 9 hours. The mixture is cooled and ≈30 ml of methanol are evaporated off; methylene chloride and water are added and the aqueous phase is separated off and extracted with methylene chloride; the organic phases are washed with water, dried (Na2SO4) and concentrated by evaporation, yielding the title compound: HPLC20-100 : tRet =11.9; FAB MS (M+H)+ =469.

reactant | K2CO3 | 1N | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S) -(trifluoroacetyl)amino-6-phenyl-2-azahexane | S1C(=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC(C(F)(F)F)=O)O)NC(=O)OC(C)(C)C | C27H31F3N4O4S
solvent | methanol | 55 ml | CO | CH4O
product | 1-[4-(Thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-amino-6-phenyl-2-azahexane | S1C(=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)N)O)NC(=O)OC(C)(C)C | C25H32N4O3S
